US07259183B2
Preparation of 6-fluoro-1H-indole-7-carboxylic acid
60 ml THF were cooled down to −60° C. under argon and 27 ml of a 1.6M n-BuLi solution (42.9 mmol) in hexane were added followed by 2.9 g of 6-fluoro-1H-indole (21 mmol) in 12 ml THF (addition over 25 min, temperature between −72 and −70° C.). After 5 min additional stirring at this temperature, a solution of 4.8 g of potassium tert-butylate (42.9 mmol) in 18 ml THF were added at the same temperature over 30 min. The reaction mixture was then stirred for 2 h at −72° C. and then treated with a large excess of solid CO2 over 1.5 h (temperature raised by 15° C.). To the brown/orange suspension, 40 ml of water were added, and after addition of diethylether the phases were separated, the aqueous phase extracted with 2× diethylether. Finally the aqueous phase was treated with conc HCl until pH 1 and extracted twice with diethylether. The combined organic phases were then washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo, and crystallized from diethylether/hexane, leading to 1.9 g 6-fluoro-1H-indole-7-carboxylic acid, as a light brown solid (51%). MS: 177.9 (M−H)−

reactant | n-BuLi | 42.9 mmol, 1.6M | [Li]CCCC
reactant | 6-fluoro-1H-indole | 21 mmol, 2.9 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | potassium tert-butylate | 42.9 mmol, 4.8 g | CC(C)(C)[O-].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
solvent | water | 40 ml | O | H2O
product | 6-fluoro-1H-indole-7-carboxylic acid | FC1=CC=C2C=CNC2=C1C(=O)O | C9H6FNO2
